US07700605B2
A mixture of (3′-hydroxy-biphenyl-4-ylmethyl)-carbamic acid tert-butyl ester (435 mg), 2,4-dichloropyrimidine (221 mg) and potassium carbonate (295 mg) in DMF (10 ml) is stirred at rt for 20 h. This mixture is quenched with brine and extracted twice with EtOAc. The combined organic phases are dried over sodium sulfate, the solvent is evaporated and the resulting crude product is purified on silica (90 g) with cyclohexane/EtOAc 80/20 to afford pure [3′-(2-chloro-pyrimidin-4-yloxy)-biphenyl-4-ylmethyl]-carbamic acid tert-butyl ester.

reactant | (3′-hydroxy-biphenyl-4-ylmethyl)-carbamic acid tert-butyl ester | 435 mg | C(C)(C)(C)OC(NCC1=CC=C(C=C1)C1=CC(=CC=C1)O)=O | C18H21NO3
reactant | 2,4-dichloropyrimidine | 221 mg | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | potassium carbonate | 295 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | [3′-(2-chloro-pyrimidin-4-yloxy)-biphenyl-4-ylmethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=CC=C(C=C1)C1=CC(=CC=C1)OC1=NC(=NC=C1)Cl)=O | C22H22ClN3O3
